US07906502B2
N-({4-[(2R,3R)-3-{[2-(1,3-Benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-methylphenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine
To a solution of {4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-oxoethyl]thio}-1-(4-methylphenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid (0.020 g, 0.040 mmol) and NMM (0.013 ml, 0.116 mmol) in DMF (3 ml) at RT was added TBTU (0.016 g, 0.050 mmol). The reaction mixture was stirred for 30 min after which glycyl-3-methyl-D-valine (0.009 g, 0.048 mmol) was added. The mixture was stirred for 15 h before the reaction was quenched by the addition of water (1 ml). The mixture was diluted with MeOH (2 ml) and added NaBH4 (0.017 g, 0.449 mmol). After 15 min the reaction was quenched by the addition of an aqueous solution of hydrochloric acid (1M, 1 ml) and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC using a gradient of 20-60% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product.

reactant | {4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-oxoethyl]thio}-1-(4-methylphenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid | 0.040 mmol, 0.020 g | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)C)C2=CC=C(OCC(=O)O)C=C2)=O | C27H23NO7S
reactant | NMM | 0.116 mmol, 0.013 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.050 mmol, 0.016 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | glycyl-3-methyl-D-valine | 0.048 mmol, 0.009 g | NCC(=O)N[C@H](C(C)(C)C)C(=O)O | C8H16N2O3
reactant | NaBH4 | 0.449 mmol, 0.017 g | [BH4-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-({4-[(2R,3R)-3-{[2-(1,3-Benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-methylphenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)C)C2=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)(C)C)C(=O)O)C=C2)O | C35H39N3O9S
